US06166006
A mixture of 4-nitrobenzyldipropylphosphine oxide (3.0 g) and 5% Pd-C (0.3 g)in ethanol (50 ml) was vigorously stirred under hydrogen atmosphere for 16 hours, and the Pd-C was filtered off. The filtrate was concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethanol/ethyl acetate=1:5→1:4) and recrystallized from ethanol-ethyl acetate to give 4-aminobenzyldipropylphosphine oxide (1.78 g) as colorless crystals.

reactant | 4-nitrobenzyldipropylphosphine oxide | 3.0 g | [N+](=O)([O-])C1=CC=C(CP(CCC)(CCC)=O)C=C1 | C13H20NO3P
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.3 g | [Pd] | Pd
product | 4-aminobenzyldipropylphosphine oxide | 1.78 g | NC1=CC=C(CP(CCC)(CCC)=O)C=C1 | C13H22NOP
